US06110963
2-[1-Bromo-6-(2-butyl-benzofuran-3-carbonyl)-naphthalen-2-yloxy]-3-phenylpropionic acid
The title compound was prepared from 1-bromo-6-(2-butyl-benzofuran-3-carbonyl)-naphthalen-2-ol, and 3-phenyllactic methyl ester, in substantially the same manner, as described in Example 5, and was obtained as a white solid, mp 165-167° C.; MS m/e 570 (M+);

reactant | 1-bromo-6-(2-butyl-benzofuran-3-carbonyl)-naphthalen-2-ol | BrC1=C(C=CC2=CC(=CC=C12)C(=O)C1=C(OC2=C1C=CC=C2)CCCC)O | C23H19BrO3
reactant | 3-phenyllactic methyl ester | COC(C(O)CC1=CC=CC=C1)=O | C10H12O3
product | 2-[1-Bromo-6-(2-butyl-benzofuran-3-carbonyl)-naphthalen-2-yloxy]-3-phenylpropionic acid | BrC1=C(C=CC2=CC(=CC=C12)C(=O)C1=C(OC2=C1C=CC=C2)CCCC)OC(C(=O)O)CC2=CC=CC=C2 | C32H27BrO5
